US08217032B2
8,10-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol hydrochloride salt
Dissolve 8,10-difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol (532 mg, 1.1 mmol) in dichloromethane (10 mL) and add 2M HCl (1.1 mL, 2.2 mmol) and stir for 10 minutes. Concentrate in vacuo to yield 536 mg (100%) of the title compound. Mass spectrum (ion spray): m/z=488 (M+H−HCl). Separate the racemate into its constituent enantiomers by chiral chromatography. Conditions: Column: Chiralcel OD 4.6×150 mm; Eluent: 0.2% DMEA, 5% MeOH, 10% 3A Alcohol in Heptane.

reactant | 8,10-difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol | 1.1 mmol, 532 mg | FC=1C=C2OC(C3=C4C=CC(=CC4=CC=C3C2=C(C1)F)O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H27F2NO3
reactant | HCl | 2.2 mmol, 2M, 1.1 mL | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 8,10-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol hydrochloride salt | 536 mg, 100% | Cl.FC=1C=C2OC(C3=C4C=CC(=CC4=CC=C3C2=C(C1)F)O)C1=CC=C(C=C1)OCCN1CCCCC1 | InChI=1S/C30H27F2NO3.ClH/c31-21-17-26(32)29-25-10-6-20-16-22(34)7-11-24(20)28(25)30(36-27(29)18-21)19-4-8-23(9-5-19)35-15-14-33-12-2-1-3-13-33;/h4-11,16-18,30,34H,1-3,12-15H2;1H
